reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([O:2][H:19])([H:8])([H:9])[H:10].[C:3]([C:4]([H:12])([H:13])[H:14])(=[C:5]([H:15])[H:16])[H:11].[C:6](=[O:7])([H:17])[H:18]>>[C:1]([O:2][C@@:3]([C:4]([H:12])([H:13])[H:14])([C:5]([C:6]([O:7][H:19])([H:17])[H:18])([H:15])[H:16])[H:11])([H:8])([H:9])[H:10],36.0589030125488
[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5]([O:6][H:16])([H:14])[H:15])[H:13])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]([C:3]([O:6][H:16])([H:11])[H:12])([C:4](=[C:5]([H:14])[H:15])[H:13])[H:10])([H:7])([H:8])[H:9],82.3586758081087
[C+:1]([N:2]([C:3]([C:4]([H:12])([H:13])[H:14])=[C:5]=[N-:6])[H:10])([H:7])[H:8].[H:9][H:11]>>[C:1]([N:2]([C@@:3]([C:4]([H:12])([H:13])[H:14])([C:5]#[N:6])[H:11])[H:10])([H:7])([H:8])[H:9],20.154752826507696
[C:1]([O:2][C:3](=[O:4])[C:5]([C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][C@@:3]1([O:4][H:15])[C:5]([H:11])([H:12])[C:6]([H:13])([H:14])[O:7]1)([H:8])([H:9])[H:10],52.5916988144827
[N:1]#[C:2][C@@:3]1([H:6])[C:4]([H:7])([H:8])[N:5]1[H:9]>>[N:1]#[C:2][C:3]([N:5]([C:4][H:7])[H:9])([H:6])[H:8],76.7732280735891
[C:1]1([H:8])([H:10])[C@:2]2([H:11])[C:3]([H:12])([H:13])[C@:4]2([H:14])[C:5]([H:15])([H:16])[C@@:6]1([O:7][H:9])[H:17]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]1([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])[H:14])([H:8])([H:9])[H:10],79.21519825680596
[C:1]([C:2]#[C:3][C:4]([C:5]([O:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[C:3]=[C:4]([H:10])[H:11])[H:14])([H:7])([H:8])[H:9].[C:5](=[O:6])([H:12])[H:13],44.07402729136021
[C:1]([O:2][C:3]([C@@:4]([C:5]([H:13])([H:14])[H:15])([O:6][H:16])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([O:2][H:16])([H:7])([H:8])[H:9].[C:3]([C:4](=[O:6])[H:12])([C:5]([H:13])([H:14])[H:15])([H:10])[H:11],77.68423935804641
[O:1]([C@@:2]1([H:9])[N:3]=[C:4]([H:8])[N:5]=[N:6]1)[H:7]>>[O:1]([c+:2]1[n-:3][c:4]([H:8])[n:5][n:6]1[H:9])[H:7],19.286134538417606
[C:1](/[C:2](=[N:3]\[O:4][H:10])[C:5]#[C:6][H:11])([H:7])([H:8])[H:9]>>[C:1]([C+:2]([N:3]([O-:4])[H:10])[C:5]#[C:6][H:11])([H:7])([H:8])[H:9],51.806311034766104
[H:7][H:10].[O:1]=[C:2]([C:3]([O:4][C:5](=[O:6])[H:12])([H:8])[H:11])[H:9]>>[O:1]([C:2]([C:3]([O:4][C:5](=[O:6])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7],75.9018173578226
[C:1]([O:2][C:3]([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6](=[O:7])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:7][C@@:6]1([H:17])[O:2][C:3]([H:11])([H:12])[C@:4]1([C:5]([H:14])([H:15])[H:16])[H:13])([H:8])([H:9])[H:10],84.7586882748827
[C:3](=[O:4])([H:10])[H:11].[N:1]([C:2](=[C:5]=[N:6][H:12])[H:9])([H:7])[H:8]>>[N:1]([C@@:2]([C:3]([O:4][H:12])([H:10])[H:11])([C:5]#[N:6])[H:9])([H:7])[H:8],11.775670676776002
[C:1](=[C:2]([C:3]([C:4]([C:5]([C:6]([O:7][H:21])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])[H:12])([H:9])[H:10].[H:8][H:11]>>[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([O:7][H:21])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],81.5187831307453
[C:2](=[C:3]([H:10])[H:11])([C:6]#[C:7][H:12])[H:9].[O:1]([C:4]#[N:5])[H:8]>>[O:1]([C@@:2]([C:3]([C:4]#[N:5])([H:10])[H:11])([C:6]#[C:7][H:12])[H:9])[H:8],60.142533796716094
[C:1]([C@@:2]([C:3]([C:4]([O:5][H:16])([H:14])[H:15])([H:12])[H:13])([C:6]#[N:7])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([C:3]([C:4](=[O:5])[H:15])([H:12])[H:13])([C:6]#[N:7])[H:11])([H:8])([H:9])[H:10].[H:14][H:16],85.2314727137564
[C:1](/[N:2]=[C:3](/[O:4][C:5]([C:6]([O:7][H:16])([H:14])[H:15])([H:12])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2]([C:3]1([H:11])[O:4][C:5]([H:12])([H:13])[C:6]([H:14])([H:15])[O:7]1)[H:16])([H:8])([H:9])[H:10],43.30568881028971
[C:1]([C@@:2]([O:3][H:11])([C:4]([O:5][H:14])([H:12])[H:13])[C:6]#[C:7][H:15])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3][H:11])=[C:4]([H:12])[H:13])([H:8])([H:9])[H:10].[O:5]([C:6]#[C:7][H:15])[H:14],85.24113188321
[N:1](=[C:2]=[C:7]([C:6](=[O:5])[H:9])[H:10])[H:8].[N:3]#[N:4]>>[N:1](=[C:2]=[N:3][N:4]=[C:7]([C:6](=[O:5])[H:9])[H:10])[H:8],93.4838879924321
[C:1]([C:2]#[C:3][C:4](=[O:5])[C:6]([H:10])([H:11])[H:12])([H:7])([H:8])[H:9]>>[C:1](=[C:2]([C+:3]=[C:4]([O-:5])[C:6]([H:10])([H:11])[H:12])[H:8])([H:7])[H:9],74.4361957744961
[C:1]([C@@:2]([O:3][H:12])([C:4](=[O:5])[C:6]#[C:7][H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@:2]1([H:11])[C:4](=[O:5])/[C:6]1=[C:7](/[O:3][H:12])[H:13])([H:8])([H:9])[H:10],73.94541388717609
[C:1]([C:2]([C@@:3]([O:4][H:14])([C:5]([C:6]([O:7][H:19])([H:17])[H:18])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C@:3]([O:4][H:14])([H:13])[C:5]([H:15])([H:16])[C:6]([H:17])([H:18])[O:7]1)([H:8])([H:9])[H:10].[H:12][H:19],109.10432565254
[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@@:4]2([O:5][H:12])[C:6]([H:13])([H:14])[C@@:7]12[H:15])[H:8]>>[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@:4]([O:5][H:12])([H:15])[C:6]([H:13])([H:14])[C:7]1)[H:8],66.33458601820311
